US07511059B2
Cyano-ethylthiocarbamoyl-acetic Acid Ethyl Ester
4.25 ml of ethyl isothiocyanate is added to a mixture that consists of 5 g of cyanoacetic acid ethyl ester and 5 ml of triethylamine at 25° C. Then, it is allowed to stir for 6 more hours at 50° C. Then, the reaction mixture is concentrated by evaporation in a vacuum. The residue is taken up in ethanol and poured into 150 ml of ice-cold IN hydrochloric acid. It is allowed to stir for 3 more hours at 25° C., and then the residue is filtered off. The solid that is obtained is rewashed with water. 7 g of product is obtained.

reactant | ethyl isothiocyanate | 4.25 ml | C(C)N=C=S | C3H5NS
reactant | cyanoacetic acid ethyl ester | 5 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | Cyano-ethylthiocarbamoyl-acetic Acid Ethyl Ester | 7 g | C(C)OC(C(C(NCC)=S)C#N)=O | C8H12N2O2S
